US06528503B2
To a solution of diethyl zinc (77 mL of a 1.0 M solution in hexane; 77 mmol) in dry dichloromethane (250 mL) at 0° C. under an inert atmosphere was added TFA (5.9 mL, 77 mmol) in dichloromethane (15 mL) dropwise over a period of 1 h. To this suspension was added diiodomethane (6.2 mL, 77 mmol) in dichloromethane (10 mL) dropwise over a period of 15 min. The resulting solution was stirred at 0° C. for 30 min, at which time methyl 3,3-dimethyl-4-pentenoate (5.0 g, 35 mmol) was added. The mixture was stirred at 0° C. for 30 min and then at ambient temperature for 16 h. The reaction was quenched by addition of saturated aqueous ammonium chloride (100 mL). The organic layer was separated and washed with water (100 mL), dried (MgSO4), filtered, and the solvents were removed under reduced pressure. The resulting liquid was distilled under reduced pressure. The fraction boiling at 76-80° C. (18 mm Hg) was collected to give methyl 3-cyclopropyl-3-methylbutanoate as a colorless liquid. 1H NMR 400 MHz, CDCl3, 3.66 ppm (s, 3H), 2.27 ppm (s, 2H), 0.87 ppm (s, 6H), 0.81 ppm (m, 1H), 0.31 ppm (m, 2H), 0.20 ppm (m, 2H)

reactant | diethyl zinc | C(C)[Zn]CC
reactant | TFA | 77 mmol, 5.9 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | diiodomethane | 77 mmol, 6.2 mL | ICI | CH2I2
reactant | methyl 3,3-dimethyl-4-pentenoate | 35 mmol, 5.0 g | CC(CC(=O)OC)(C=C)C | C8H14O2
solvent | hexane | CCCCCC | C6H14
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | methyl 3-cyclopropyl-3-methylbutanoate | C1(CC1)C(CC(=O)OC)(C)C | C9H16O2
